US06770667B1
A suspension of 4,5-dimethyl-1-(3-nitrophenyl)imidazole (130 mg) in methanol (2 ml) and tetrahydrofuran (2 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 50 mg) under hydrogen atmosphere for 3 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 3-(4,5-dimethyl-imidazol-1-yl)aniline (110 mg, 98.2%).

reactant | 4,5-dimethyl-1-(3-nitrophenyl)imidazole | 130 mg | CC=1N=CN(C1C)C1=CC(=CC=C1)[N+](=O)[O-] | C11H11N3O2
solvent | methanol | 2 ml | CO | CH4O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 3-(4,5-dimethyl-imidazol-1-yl)aniline | 110 mg, 98.2% | CC=1N=CN(C1C)C=1C=C(N)C=CC1 | C11H13N3
